US04831175
BOC-p-nitrophenylalanine 2-oxopropyl amide
t-Butyloxycarbonyl-p-nitrophenylalanine (4.42 g, 14.26 mmol, aminoacetone hydrochloride (1.56 g, 14.26 mmol), triethylamine (1.44 g, 14.26 mmol), 1-hydroxybenzotriazole (1.69 g, 12.55 mmol), were dissolved in ethyl acetate (400 ml). 1,3-Dicyclohexylcarbodiimide (3.23 g, 15.68 mmol) in ethyl acetate (25 ml) was added and the solution allowed to stir for 18 hours. Glacial acetic acid (0.2 ml) was added and the solution was filtered. The filtrate was extracted with saturated salt solution (100 ml), 1N HCl solution (3×100 ml), saturated salt solution (100 ml), 5% bicarbonate solution (3×100 ml), and saturated salt solution (100 ml). The organic phase was dried over MgSO4, filtered and concentrated to 50 ml. Petroleum ether (50 ml) was added and the solution was cooled to 0° C. for 12 hours. The precipitated product was collected and dried under vacuum.

reactant | t-Butyloxycarbonyl-p-nitrophenylalanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C14H18N2O6
reactant | aminoacetone hydrochloride | 14.26 mmol, 1.56 g | Cl.NCC(C)=O
reactant | triethylamine | 14.26 mmol, 1.44 g | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 12.55 mmol, 1.69 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-Dicyclohexylcarbodiimide | 15.68 mmol, 3.23 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | BOC-p-nitrophenylalanine 2-oxopropyl amide | O=C(CNC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C17H23N3O6
